US08022081B2
6-(1-Aza-bicyclo[2.2.2]oct-2-en-3-yl)-naphthalen-2-ol hydrochloric acid salt
A mixture of 3-(6-methoxy-naphthalen-2-yl)-1-aza-bicyclo[2.2.2]oct-2-ene (0.80 g, 2.10 mmol) and dichloromethane (25 ml) was cooled to −10° C. Borontribromide (10 eq) solved in dichloromethane (21.0 ml, 21.0 mmol) was added dropwise at −10° C. The mixture was allowed to stir for 48 h. Concentrated ammonia (20 ml) was added. The phases were separated and the aqueous phase was extracted with dichloromethane (2×20 ml). The combined organic phase was dried and evaporated. The free base of the title compound was precipitated to the hydrochloric acid salt by addition of hydrogen chloride solved in ethanol. Yield 20 mg (3%). Mp 227-230° C.

reactant | 3-(6-methoxy-naphthalen-2-yl)-1-aza-bicyclo[2.2.2]oct-2-ene | 2.10 mmol, 0.80 g | COC=1C=C2C=CC(=CC2=CC1)C1=CN2CCC1CC2 | C18H19NO
reactant | ammonia | 20 ml | N | H3N
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 21.0 mmol, 21.0 ml | ClCCl | CH2Cl2
product | 6-(1-Aza-bicyclo[2.2.2]oct-2-en-3-yl)-naphthalen-2-ol hydrochloric acid salt | Cl.N12C=C(C(CC1)CC2)C=2C=C1C=CC(=CC1=CC2)O | InChI=1S/C17H17NO.ClH/c19-16-4-3-13-9-15(2-1-14(13)10-16)17-11-18-7-5-12(17)6-8-18;/h1-4,9-12,19H,5-8H2;1H
